US07977340B2
Step 5. 5,7-Diiodo-benzothiazol-2-ylamine
To a solution of (3,5-diiodo-phenyl)-thiourea (4.0 g, 0.01 mol) in CHCl3 (160 mL) at −55-60° C. was added dropwise a solution of Br2 (4.72 g, 0.02 mol, in 25 ml of CHCl3) over a period of 15 min. The reaction mixture was stirred at −55-60° C. for 15 min followed by refluxing at 70-75° C. for 3 h. The reaction mixture was cooled to room temperature and filtered to get the crude residue that was washed with hexane and diethyl ether. The solid thus obtained was dissolved in H2O, basified with aqueous ammonia solution to pH 10-12 and stirred for 30 min. The solid thus obtained was filtered and washed with water to get the desired product (3.50 g, 88%).

reactant | (3,5-diiodo-phenyl)-thiourea | 0.01 mol, 4.0 g | IC=1C=C(C=C(C1)I)NC(=S)N | C7H6I2N2S
reactant | Br2 | 0.02 mol, 25 ml, 4.72 g | BrBr | Br2
reactant | ammonia | N | H3N
solvent | CHCl3 | 160 mL | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | O | H2O
product | 5,7-Diiodo-benzothiazol-2-ylamine | 3.50 g, 88% | IC=1C=C(C2=C(N=C(S2)N)C1)I | C7H4I2N2S
